US05008245
N-t-Boc-D-proline (37)
Triethylamine (0.2 g, 2 mmoles) was slowly added to a solution of (D-proline (0.23 g, 2 mmoles) and t-BOC-ON (0.5 g, 2 mmoles) in DMF (3 mL) at room temperature and the mixture stirred for 36 h. The DMF was coevaporated with toluene under vacuum. Aqueous hydrochloric acid (1×10-4M) (20 mL) and ethyl acetate (20 mL) were added to the flask to dissolve the residue. The organic layer was washed with water (3×20 mL) and brine (2×20 mL); dried (5 g of MgSO4) and evaporated under reduced pressure. The residue, containing the product, was chromatographed on 5 g of silica gel column (1×25 cm). Upon evaporation under reduced pressure a transparent oil was obtained. The oil was crystallized from ethyl acetate/diethyl ether to give 0.4 g (2 mmoles) (99% yield) of a crystalline powder, mp 133°-134° C. (lit.91 mp 132°-133° C.). 1H-NMR (CDCl3) δ 1.46(9Ha,s); 1.86-2.40(4Hb,m); 3.43-3.80(2Hc,m); 4.26-4.66(1Hd,m); 11.43(1He,s). IR (Nujol) 1740, 1635 cm-1.

reactant | Triethylamine | 2 mmoles, 0.2 g | C(C)N(CC)CC | C6H15N
reactant | D-proline | 2 mmoles, 0.23 g | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | 1×10-4M, 20 mL | Cl | ClH
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-t-Boc-D-proline | 2 mmoles, 0.4 g, 99% yield | CC(C)(C)OC(=O)N1CCC[C@@H]1C(=O)O | C10H17NO4
